US05750701
(R)-3-(3,4-Dihydroxyphenyl)-2-propylamine Hydrobromide
A solution of (R)-3-(3,4-dimethoxyphenyl)-2-propylamine hydrochloride (500 mg, 2.15 mMol) in hydrogen bromide (48%, 5 ml) was stirred at 100° C. under an argon atmosphere for 20 hours. After cooling, the solvent was evaporated and the residue was dried giving the title compound.

reactant | (R)-3-(3,4-dimethoxyphenyl)-2-propylamine hydrochloride | 2.15 mMol, 500 mg | Cl.COC=1C=C(C=CC1OC)C[C@@H](C)N
reactant | hydrogen bromide | 5 ml | Br | BrH
product | (R)-3-(3,4-Dihydroxyphenyl)-2-propylamine Hydrobromide | Br.OC=1C=C(C=CC1O)C[C@@H](C)N | InChI=1S/C9H13NO2.BrH/c1-6(10)4-7-2-3-8(11)9(12)5-7;/h2-3,5-6,11-12H,4,10H2,1H3;1H/t6-;/m1./s1
